US08791132B2
Phenyl magnesium bromide (1M solution in THF) (6.24 mL, 6.24 mmol) was added dropwise at −70° C. to a stirred solution of 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-propionaldehyde (400 mg, 1.56 mmol) in THF (40 mL), the reaction mixture stirred at RT for 16 h, diluted with EtOAc (75 mL) and water (60 mL). The two layers were separated, the aq. layer extracted with EtOAc (2×75 mL), and the combined organic layers dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crude (500 mg) was purified by prep. HPLC to afford 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)1-phenyl-propan-1-ol yielded as the TFA salt (65 mg). 1H NMR (CDCl3, Free base) δ (ppm): 7.37 (d, 1H), 7.17 (t, 3H), 7.12 (s, 1H), 7.06 (m, 2H), 6.95 (d, 1H), 5.11 (t, 1H), 4.37 (t, 1H), 3.57 (dd, 1H), 3.46 (d, 1H), 2.67 (m, 2H), 2.51 (m, 1H), 2.43 (s, 3H), 2.41 (s, 3H), 1.68 (d, 3H). Separation by chiral HPLC provides diastereomers II-95a-d.

reactant | Phenyl magnesium bromide | 6.24 mmol, 1M, 6.24 mL | C1(=CC=CC=C1)[Mg]Br
reactant | 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-propionaldehyde | 1.56 mmol, 400 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)C(C=O)C)CC1 | C16H20N2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | water | 60 mL | O | H2O
product | 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)1-phenyl-propan-1-ol | CN1CC2=C(N(C=3C=CC(=CC23)C)C(C(O)C2=CC=CC=C2)C)CC1 | C22H26N2O
